US06518264B2
The operation is carried out under the conditions described in Example 124 starting with 150 mg of activated 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)benzoic acid on TFP resin (165 μM) and 0.0345 cm3 of N-(2-aminoethyl)morpholine. 62 mg of 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)-N-(2-morpholin-4-ylethyl)benzamide are thus obtained in the form of an ochre-colored foam [1H NMR spectrum (400 MHz, (CD3)2SO-d6, δ in ppm): from 2.30 to 2.45 (mt, 4H), 2.46 (t, J=7.5 Hz, 2H), 2.98 (s, 3H), 3.38 (mt, 2H), from 3.50 to 3.65 (mt, 4H), 3.82 (mt, 2H), 4.24 (mt, 2H), 4.79 (s, 1H), 7.36 (d, J=8.5 Hz, 4H), 7.46 (d, J=8.5 Hz, 4H), from 7.50 to 7.60 (mt, 2H), 7.83 (broad s, 1H), 7.85 (dd, J=8 and 2 Hz, 1H), 8.45 (t, J=6.5 Hz, 1H)].

reactant | 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)benzoic acid | 150 mg | ClC1=CC=C(C=C1)C(N1CC(C1)=CS(=O)(=O)CC=1C=C(C(=O)O)C=CC1)C1=CC=C(C=C1)Cl | C25H21Cl2NO4S
reactant | N-(2-aminoethyl)morpholine | 0.0345 cm3 | NCCN1CCOCC1 | C6H14N2O
product | 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)-N-(2-morpholin-4-ylethyl)benzamide | 62 mg | ClC1=CC=C(C=C1)C(N1CC(C1)=CS(=O)(=O)CC=1C=C(C(=O)NCCN2CCOCC2)C=CC1)C1=CC=C(C=C1)Cl | C31H33Cl2N3O4S
